US07452892B2
F. Preparation of 2-chloro-4,5-bis(4-chlorophenyl)-6-hydrazinylpyrimidine
2,4-Dichloro-5,6-bis(4-chlorophenyl)pyrimidine (1.8 g, 4.86 mmol) was dissolved in pyridine (5 mL) and hydrazine monohydrate (0.26 mL, 5.36 mmol) was added. The reaction mixture was stirred at room temperature for 30 min. The reaction mixture was then diluted with water (10 mL) and extracted with EtOAc (10 mL×2). The combined organic extracts were washed with water, followed by saturated aqueous NaCl, dried (MgSO4), and concentrated at reduced pressure to obtain 1.7 g of the title compound, as a mixture with its regioisomer, as a yellow solid. HPLC/MS: title compound retention time=3.261 min, [M+H]30 =365; regioisomer retention time 3.385 min.

reactant | 2,4-Dichloro-5,6-bis(4-chlorophenyl)pyrimidine | 4.86 mmol, 1.8 g | ClC1=NC(=C(C(=N1)Cl)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C16H8Cl4N2
reactant | hydrazine monohydrate | 5.36 mmol, 0.26 mL | O.NN
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 10 mL | O | H2O
product | 2-chloro-4,5-bis(4-chlorophenyl)-6-hydrazinylpyrimidine | 1.7 g | ClC1=NC(=C(C(=N1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)NN | C16H11Cl3N4
